US04083983
2-(2-Aminoethylthiomethyl)-3-ethoxypyridine (1.0 g) in ethanol (10 cc) was added over 45 minutes to a stirred solution of dimethyl N-cyanodithioimidocarbonate (0.690 g) in ethanol (5 cc) at room temperature. The mixture was allowed to stand overnight at room temperature, nitrogen was bubbled through the solution for one hour, and the mixture was allowed to crystallise to give N-cyano-N'-[2-((3-ethoxy-2-pyridyl)methylthio)ethyl]-S-methylisothiourea (1.4 g) m.p. 98°-99°.

reactant | 2-(2-Aminoethylthiomethyl)-3-ethoxypyridine | 1.0 g | NCCSCC1=NC=CC=C1OCC | C10H16N2OS
reactant | dimethyl N-cyanodithioimidocarbonate | 0.690 g | C(#N)N=C(SC)SC | C4H6N2S2
solvent | ethanol | 10 cc | C(C)O | C2H6O
solvent | ethanol | 5 cc | C(C)O | C2H6O
product | N-cyano-N'-[2-((3-ethoxy-2-pyridyl)methylthio)ethyl]-S-methylisothiourea | 1.4 g | C(#N)NC(SC)=NCCSCC1=NC=CC=C1OCC | C13H18N4OS2
